US05891871
Methyl 2-(4-Methylbenzoyl)-4,5-methylenedioxyphenylacetate
The title compound was prepared from methyl 3,4-methylenedioxyphenylacetate (319 mg, 1.64 mmol) in CH2Cl2 (5 mL), SnCl4 (1.0M solution in CH2Cl2 ; 3.5 mL mmol) and 4-toluoyl chloride (260 μL, 1.97 mmol) as an oily solid (90 mg, 18%). 1H NMR (CDCl3) 7.69 (d, 2H, J=8.0), 7.24 (d, 2H, J=8.0), 6.88 (s, 1H), 6.83 (s, (s, 2H), 3.78 (s, 2H), 3.60 (s, 3H), 2.43 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 1.64 mmol, 319 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | 4-toluoyl chloride | 1.97 mmol, 260 μL, 90 mg | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | SnCl4 | 1.0M, 3.5 mL | Cl[Sn](Cl)(Cl)Cl
product | Methyl 2-(4-Methylbenzoyl)-4,5-methylenedioxyphenylacetate | CC1=CC=C(C(=O)C2=C(C=C3C(=C2)OCO3)CC(=O)OC)C=C1 | C18H16O5
